US09315495B2
To a solution of 2-bromo-5-(methoxymethyl)thiophene (439 mg, 2.12 mmol) in 6 mL of 9:1 tetrahydrofuran/hexamethylphosphoramide under argon at −78° C. was added n-butyllithium (0.93 mL, 2.5 M in hexanes) dropwise. After stirring for 2 minutes at −78° C., dimethylformamide (0.82 mL, 10.6 mmol) was added in a single portion and the reaction mixture was allowed to warm to room temperature before being poured into 30 mL of 1 N hydrochloric acid. Organics were extracted with 1:1 ether/hexanes (3×30 mL), washed with water (2×30 mL, brine (30 mL), dried over magnesium sulfate, filtered and concentrated. The crude residue was subjected to chromatography on silica gel with gradient elution (5-20% ethyl acetate in hexanes) to give 5-(methoxymethyl)thiophene-2-carbaldehyde (103 mg, 31%) as an oil. Used without further characterization.

reactant | 2-bromo-5-(methoxymethyl)thiophene | 2.12 mmol, 439 mg | BrC=1SC(=CC1)COC | C6H7BrOS
reactant | n-butyllithium | 2.5 M, 0.93 mL | C(CCC)[Li]
reactant | dimethylformamide | 10.6 mmol, 0.82 mL | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 1 N, 30 mL | Cl | ClH
solvent | tetrahydrofuran hexamethylphosphoramide | 6 mL | O1CCCC1.CN(P(=O)(N(C)C)N(C)C)C
product | 5-(methoxymethyl)thiophene-2-carbaldehyde | 103 mg, 31% | COCC1=CC=C(S1)C=O | C7H8O2S
